US05440037
203.0 g (0.75 mol) of phosphorus tribromide was added to 263.1 g (3.6 mol) of N,N-dimethylformamide, and 45.3 g (0.3 tool) of guanine (manufactured by Sumika Fine Chemicals Co., Ltd.) was then added, followed by stirring at 100° C. for 8 hours. After cooling, the reaction mixture was added to 2000 ml of water containing 315.0 g (3.75 mol) of sodium hydrogen carbonate. The precipitating crystal was collected by filtration and washed with 500 ml of water to yield a crystal of 2-dimethylaminomethyleneamino-6-bromopurine, whose properties are as follows:

reactant | phosphorus tribromide | 0.75 mol, 203.0 g | P(Br)(Br)Br | Br3P
reactant | N,N-dimethylformamide | 3.6 mol, 263.1 g | CN(C=O)C | C3H7NO
reactant | guanine | 45.3 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | water | 3.75 mol, 2000 ml, 315.0 g | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-dimethylaminomethyleneamino-6-bromopurine | CN(C)C=NC1=NC(=C2NC=NC2=N1)Br | C8H9BrN6
